US07205302B2
1-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3-(methoxymethoxy)benzene
In the same manner as in the step 1 of Example 9, except that 2-chloro-5,6-diphenylpyrazine was used in place of 2-chloro-5,6-di-p-tolylpyrazine and 3-(methoxymethoxy)-N-methylbenzylamine was used in place of 4-(methylamino)-1-butanol, the desired compound was prepared as a colorless crystal having a melting point of 109 to 111° C.

reactant | 2-chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | 3-(methoxymethoxy)-N-methylbenzylamine | COCOC=1C=C(CNC)C=CC1 | C10H15NO2
product | 1-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3-(methoxymethoxy)benzene | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CC1=CC(=CC=C1)OCOC | C26H25N3O2
